US07754728B2
9-Benzyl-2-chloroadenine (0.30 g, 1.12 mmol), glycine methyl ester hydrochloride (0.72 g, 5.73 mmol) and diisopropylethylamine (1.48 g, 11.47 mmol) were added to n-butanol (10 ml), and the mixture was stirred in an autoclave at 150° C. for 19 hours. The solvent was removed and the residue was poured into water. The solution was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, concentrated and the residue was purified by column chromatography to give 9-benzyl-2-methoxycarbonylmethylaminoadenine (0.06 g) as a brown tar. Thus obtained 9-benzyl-2-methoxycarbonylmethylaminoadenine was dissolved in dichloromethane (10 ml) and to the solution was added bromine (0.05 ml) in an ice bath. The mixture was stirred at room temperature for 1 hour. After removing the solvent, the residue was poured into water and extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, concentrated and the residue was purified by column chromatography to give 9-benzyl-8-bromo-2-methoxycarbonylmethylaminoadenine (0.06 g) as a yellow solid.

reactant | 9-benzyl-2-methoxycarbonylmethylaminoadenine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)NCC(=O)OC | C15H16N6O2
reactant | bromine | 0.05 ml | BrBr | Br2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 9-benzyl-8-bromo-2-methoxycarbonylmethylaminoadenine | 0.06 g | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1Br)N)NCC(=O)OC | C15H15BrN6O2
